.SubCkt GGM32ER71A226KE12 _net1 _net2
.param K01=2.1913e-05
.param M01=2.2727e+06
.param L02=1.4269e-10
.param M03=1.3226e-03
.param K04=3.3688e-03
.param M04=1.4697e+00
.param K05=2.9790e-03
.param M05=2.1411e-01
.param K06=2.2151e-03
.param M06=3.7095e-02
.param K07=3.5240e-03
.param M07=2.6771e-03
.param K08=6.5755e-03
.param M08=4.9930e-04
.param L09=2.4281e-11
.param M09=3.8141e-02
.param L10=4.6837e-10
.param M10=1.3573e-02
.param L11=2.9306e-11
.param M11=8.0752e-03
.param K12=4.1131e-05
.param L12=1.8329e-10
.param M12=8.4856e-03
.param K13=3.1256e-05
.param L13=1.0390e-10
.param M13=5.9906e-03
.param K14=1.2407e-11
.param L14=5.5988e-11
.param M14=5.5216e+00
.param K15=3.8645e-12
.param L15=8.8770e-11
.param M15=2.8815e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM32ER71H475KA55 _net1 _net2
.param K01=4.6486e-06
.param M01=1.0638e+08
.param L02=6.7695e-11
.param M03=2.3876e-03
.param K04=5.0932e-04
.param M04=8.5671e+00
.param K05=4.9106e-04
.param M05=8.8151e-01
.param K06=4.9618e-04
.param M06=9.5579e-02
.param K07=5.2685e-04
.param M07=1.4412e-02
.param K08=4.1157e-04
.param M08=2.8302e-03
.param L09=2.4829e-11
.param M09=3.1390e-02
.param L10=2.6979e-10
.param M10=2.5527e-02
.param K11=7.8588e-06
.param L11=1.3876e-10
.param M11=1.8404e-02
.param K12=4.6064e-06
.param L12=9.7905e-11
.param M12=1.2519e-02
.param K13=3.0263e-11
.param L13=7.1575e-11
.param M13=3.8443e+00
.param K14=2.2204e-12
.param L14=2.3003e-10
.param M14=7.8788e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GGM32EC7YA106KA03 _net1 _net2
.param K01=9.7781e-06
.param M01=5.0000e+07
.param L02=6.0072e-11
.param M03=1.4477e-03
.param K04=1.0080e-03
.param M04=5.2629e+00
.param K05=1.7916e-03
.param M05=2.7545e-01
.param K06=1.6971e-03
.param M06=3.8857e-02
.param K07=3.0365e-03
.param M07=3.8084e-03
.param K08=1.7012e-03
.param M08=1.7694e-03
.param L09=5.6057e-12
.param M09=2.8014e-02
.param L10=3.1034e-11
.param M10=1.7688e-02
.param L11=3.4291e-10
.param M11=1.6849e-02
.param K12=1.8326e-05
.param L12=1.4934e-10
.param M12=1.3352e-02
.param K13=1.5164e-05
.param L13=7.9793e-11
.param M13=9.2882e-03
.param K14=3.8007e-11
.param L14=6.8947e-11
.param M14=5.1715e+00
.param K15=2.1370e-12
.param L15=1.9600e-10
.param M15=1.1504e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM32EC71H106KA03 _net1 _net2
.param K01=9.7781e-06
.param M01=5.0000e+07
.param L02=6.0072e-11
.param M03=1.4477e-03
.param K04=1.0080e-03
.param M04=5.2629e+00
.param K05=1.7916e-03
.param M05=2.7545e-01
.param K06=1.6971e-03
.param M06=3.8857e-02
.param K07=3.0365e-03
.param M07=3.8084e-03
.param K08=1.7012e-03
.param M08=1.7694e-03
.param L09=5.6057e-12
.param M09=2.8014e-02
.param L10=3.1034e-11
.param M10=1.7688e-02
.param L11=3.4291e-10
.param M11=1.6849e-02
.param K12=1.8326e-05
.param L12=1.4934e-10
.param M12=1.3352e-02
.param K13=1.5164e-05
.param L13=7.9793e-11
.param M13=9.2882e-03
.param K14=3.8007e-11
.param L14=6.8947e-11
.param M14=5.1715e+00
.param K15=2.1370e-12
.param L15=1.9600e-10
.param M15=1.1504e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM32DC72A475KE02 _net1 _net2
.param K01=4.4409e-06
.param M01=1.0638e+07
.param L02=1.0443e-10
.param M03=2.6221e-03
.param K04=6.2692e-04
.param M04=2.1019e+00
.param K05=4.5657e-04
.param M05=4.6087e-01
.param K06=4.6991e-04
.param M06=7.3730e-02
.param K07=6.0561e-04
.param M07=1.1588e-02
.param K08=3.1759e-04
.param M08=3.4546e-03
.param L09=1.9478e-11
.param M09=1.3026e-01
.param L10=2.4852e-10
.param M10=2.4390e-02
.param L11=2.6453e-11
.param M11=2.3990e-02
.param K12=8.3178e-06
.param L12=1.2151e-10
.param M12=1.4918e-02
.param K13=3.9229e-06
.param L13=1.0288e-10
.param M13=1.2210e-02
.param K14=3.7521e-11
.param L14=3.6557e-11
.param M14=8.5904e+00
.param K15=1.9926e-12
.param L15=2.0676e-10
.param M15=9.6424e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM32ER71C226KE19 _net1 _net2
.param K01=1.6822e-05
.param M01=2.2727e+06
.param L02=3.8587e-11
.param M03=1.9565e-03
.param K04=5.2010e-04
.param M04=8.1261e+00
.param K05=7.0021e-04
.param M05=6.6818e-01
.param K06=6.1739e-04
.param M06=1.0362e-01
.param K07=6.0846e-04
.param M07=1.3784e-02
.param K08=5.1168e-04
.param M08=2.8152e-03
.param L09=4.3252e-11
.param M09=2.5749e-02
.param L10=3.8802e-10
.param M10=1.4543e-02
.param K11=3.0161e-05
.param L11=1.5519e-10
.param M11=8.4350e-03
.param K12=2.4597e-05
.param L12=8.3603e-11
.param M12=5.9959e-03
.param K13=5.8932e-11
.param L13=5.4646e-11
.param M13=3.3588e+00
.param K14=1.3935e-11
.param L14=6.1242e-11
.param M14=3.8121e+00
.param K15=2.1881e-12
.param L15=2.0475e-10
.param M15=1.3874e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM32ER70J476KE19 _net1 _net2
.param K01=3.1196e-05
.param M01=1.0638e+06
.param L02=1.0486e-10
.param M03=1.2464e-03
.param K04=9.6066e-04
.param M04=1.4061e+00
.param K05=1.1075e-03
.param M05=1.3496e-01
.param K06=1.0079e-03
.param M06=1.7164e-02
.param K07=7.4034e-04
.param M07=2.3033e-03
.param L08=1.7295e-11
.param M08=2.3345e-02
.param L09=4.6915e-11
.param M09=1.3583e-02
.param L10=4.3495e-10
.param M10=1.0535e-02
.param K11=7.3513e-05
.param L11=1.3563e-10
.param M11=4.8121e-03
.param K12=3.3217e-05
.param L12=1.3426e-10
.param M12=4.3191e-03
.param K13=2.9494e-11
.param L13=7.8613e-11
.param M13=1.0362e+01
.param K14=6.3729e-12
.param L14=1.5724e-10
.param M14=2.8022e+01
.param K15=5.4685e-12
.param L15=1.2285e-10
.param M15=2.5285e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM32ER71E106KA57 _net1 _net2
.param K01=9.7437e-06
.param M01=5.0000e+07
.param L02=4.9961e-11
.param M03=1.4495e-03
.param K04=2.1817e-03
.param M04=2.9627e+00
.param K05=2.5673e-03
.param M05=5.0235e-01
.param K06=1.4265e-03
.param M06=1.7359e-01
.param K07=1.4486e-03
.param M07=2.5532e-02
.param K08=9.6437e-04
.param M08=3.9429e-03
.param L09=3.4797e-11
.param M09=2.9698e-02
.param L10=3.5326e-10
.param M10=1.8882e-02
.param K11=1.8500e-05
.param L11=1.5101e-10
.param M11=1.3623e-02
.param K12=1.1871e-05
.param L12=1.0380e-10
.param M12=1.0011e-02
.param K13=2.4333e-11
.param L13=6.4858e-11
.param M13=5.3741e+00
.param K14=2.1014e-12
.param L14=2.0044e-10
.param M14=9.9759e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GGM32ED70J476KE02 _net1 _net2
.param K01=3.8290e-05
.param M01=1.0638e+06
.param L02=1.4050e-10
.param M03=1.3052e-03
.param K04=2.2884e-03
.param M04=1.0539e+00
.param K05=3.5232e-03
.param M05=1.3197e-01
.param K06=2.9790e-03
.param M06=3.8690e-02
.param K07=3.2414e-03
.param M07=1.0314e-02
.param K08=2.0921e-03
.param M08=2.0911e-03
.param L09=5.2699e-11
.param M09=2.2382e-02
.param L10=3.8886e-10
.param M10=7.9938e-03
.param L11=9.1149e-11
.param M11=2.4890e-03
.param K12=1.3015e-04
.param L12=9.9409e-11
.param M12=4.1737e-03
.param K13=3.1180e-05
.param L13=1.7609e-10
.param M13=3.6740e-03
.param K14=3.9491e-11
.param L14=7.3204e-11
.param M14=3.3426e+00
.param K15=3.2844e-12
.param L15=1.6712e-10
.param M15=2.9211e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 
