.SubCkt GXT32ER70J476KE13 [_net1] [_net2]
.param K01=3.2782e-05
.param M01=1.0638e+06
.param L02=1.8577e-10
.param M03=1.4902e-03
.param K04=7.1721e-04
.param M04=7.5692e+00
.param K05=1.0008e-03
.param M05=3.8047e-01
.param K06=9.3466e-04
.param M06=4.0356e-02
.param K07=7.4489e-04
.param M07=4.9938e-03
.param K08=2.5577e-03
.param M08=1.7788e-04
.param L09=1.2756e-11
.param M09=6.1801e-02
.param L10=4.7880e-11
.param M10=1.9972e-02
.param L11=4.7413e-10
.param M11=1.0806e-02
.param K12=7.2939e-05
.param L12=1.3486e-10
.param M12=4.9516e-03
.param K13=5.2498e-05
.param L13=8.7748e-11
.param M13=4.1272e-03
.param K14=2.3317e-12
.param L14=2.8848e-10
.param M14=4.4699e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GXT32ER70J476KE13

.SubCkt GXT32EC81A476KE13 [_net1] [_net2]
.param K01=4.0075e-05
.param M01=1.0638e+06
.param L02=6.3283e-11
.param M03=1.1301e-03
.param K04=1.5494e-03
.param M04=3.1954e+00
.param K05=1.7341e-03
.param M05=3.0272e-01
.param K06=1.6039e-03
.param M06=3.4903e-02
.param K07=1.6257e-03
.param M07=3.1859e-03
.param K08=3.2398e-03
.param M08=1.4403e-04
.param L09=6.3212e-12
.param M09=1.8681e-02
.param L10=4.5742e-11
.param M10=1.4976e-02
.param L11=5.3553e-10
.param M11=1.0525e-02
.param K12=6.2458e-05
.param L12=2.0446e-10
.param M12=5.1897e-03
.param K13=8.5988e-05
.param L13=6.8647e-11
.param M13=3.6104e-03
.param K14=2.8479e-11
.param L14=6.2337e-11
.param M14=5.3480e+00
.param K15=1.9266e-12
.param L15=2.6662e-10
.param M15=6.6828e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GXT32EC81A476KE13

.SubCkt GXT32EC81C476KE13 [_net1] [_net2]
.param K01=4.0075e-05
.param M01=1.0638e+06
.param L02=6.3283e-11
.param M03=1.1301e-03
.param K04=1.5494e-03
.param M04=3.1954e+00
.param K05=1.7341e-03
.param M05=3.0272e-01
.param K06=1.6039e-03
.param M06=3.4903e-02
.param K07=1.6257e-03
.param M07=3.1859e-03
.param K08=3.2398e-03
.param M08=1.4403e-04
.param L09=6.3212e-12
.param M09=1.8681e-02
.param L10=4.5742e-11
.param M10=1.4976e-02
.param L11=5.3553e-10
.param M11=1.0525e-02
.param K12=6.2458e-05
.param L12=2.0446e-10
.param M12=5.1897e-03
.param K13=8.5988e-05
.param L13=6.8647e-11
.param M13=3.6104e-03
.param K14=2.8479e-11
.param L14=6.2337e-11
.param M14=5.3480e+00
.param K15=1.9266e-12
.param L15=2.6662e-10
.param M15=6.6828e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GXT32EC81C476KE13
